US06949542B2
(2-Amino-4-trifluoromethoxy-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (2-nitro-4-trifluoromethoxy-phenyl)-carbamic acid tert-butyl ester (Example A22) (10.38 g, 32.2 mmol) by hydrogenation with 10% Pd/C according to the general procedure J (method a). Obtained as a light brown solid (8.76 g, 93%).

reactant | (2-nitro-4-trifluoromethoxy-phenyl)-carbamic acid tert-butyl ester | 32.2 mmol, 10.38 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)OC(F)(F)F)[N+](=O)[O-])=O | C12H13F3N2O5
catalyst | Pd/C | [Pd] | Pd
product | (2-Amino-4-trifluoromethoxy-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)OC(F)(F)F)N)=O | C12H15F3N2O3
